US08685975B2
To a solution of N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide (1.5 g, 5.1 mmol) in anhydr CH2Cl2 (12 mL) and anhydr toluene (6 mL) at −78° C. was added a solution of DIBALH (1 M in hexanes, 7.8 mL, 7.8 mmol) dropwise over 5 min. After stirring at −78° C. for 1 hr, the reaction was quenched with the dropwise addition of EtOAc. The mixture was stirred 2 min then Et2O and saturated aqueous NH4Cl were added and the mixture was warmed to room temp. After stirring for 30 min the mixture was diluted with EtOAc and H2O and the layers separated. 10% Aqueous potassium sodium tartrate was added to the aqueous layer and it was extracted with EtOAc/Et2O. The combined organics were washed with saturated aqeuous NH4Cl and dried over Na2SO4 to give 2-methoxy-2-(4-morpholinophenyl)acetaldehyde as a yellow oil (1.27 g). The product was used in the next synthetic step without further purification.

reactant | N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide | 5.1 mmol, 1.5 g | CON(C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)C | C15H22N2O4
reactant | DIBALH | 7.8 mmol, 1 M, 7.8 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methoxy-2-(4-morpholinophenyl)acetaldehyde | 1.27 g | COC(C=O)C1=CC=C(C=C1)N1CCOCC1 | C13H17NO3
